US08648200B2
1-[6-(Trifluoromethyl)-3-pyridyl]propan-1-ol
Dissolve 6-trifluoromethyl-pyridine-3-carboxaldehyde (3.526 g, 20.136 mmol) in THF (50 mL). Add ethylmagnesium bromide (3.0 M in Et2O, 7.38 mL, 22.1 mmol) quickly. Stir 30 minutes. Pour the reaction mixture into a saturated NaHCO3 aqueous solution (100 mL). Extract with EtOAc (3×50 mL). Wash the combined organic extracts with a saturated NaCl aqueous solution (75 mL). Dry the organic extracts over Na2SO4; filter; collect the filtrate; and concentrate the filtrate under reduced pressure. Purify the residue by flash chromatography (Analogix® 40 g @ 40 mL/min) eluting with a gradient of EtOAc/hexanes (5% to 50%) over 30 minutes to give the title compound (2.01 g, 49% yield) as a yellow oil. 1H NMR (400.43 MHz, d6-DMSO) δ 8.66 (d, J=1.6 Hz, 1H), 7.95 (dd, J=1.9, 8.1 Hz, 1H), 7.81 (d, J=8.0 Hz, 1H), 5.47 (d, J=4.5 Hz, 1H), 4.60 (q, J=5.8 Hz, 1H), 1.65-1.59 (m, 2H), 0.79 (t, J=7.4 Hz, 3H).

reactant | 6-trifluoromethyl-pyridine-3-carboxaldehyde | 20.136 mmol, 3.526 g | FC(C1=CC=C(C=N1)C=O)(F)F | C7H4F3NO
reactant | ethylmagnesium bromide | 22.1 mmol, 3.0 M, 7.38 mL | C(C)[Mg]Br
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-[6-(Trifluoromethyl)-3-pyridyl]propan-1-ol | 2.01 g, 49% yield | FC(C1=CC=C(C=N1)C(CC)O)(F)F | C9H10F3NO
